US07528140B2
N-(2-{[2,2-dicyano-1-(3-methyl(2-furyl))vinyl]amino}ethyl)(tert-butoxy)carboxamide was synthesized in the same manner using [methoxy(3-methyl(2-furyl))methylene]methane-1,1-dicarbonitrile and tert-butyl N-(2-aminoethyl)carbamate. The NMR and ESI/MS data for this compound are shown below.

reactant | [methoxy(3-methyl(2-furyl))methylene]methane-1,1-dicarbonitrile | COC(C=1OC=CC1C)=C(C#N)C#N | C10H8N2O2
reactant | tert-butyl N-(2-aminoethyl)carbamate | NCCNC(OC(C)(C)C)=O | C7H16N2O2
product | N-(2-{[2,2-dicyano-1-(3-methyl(2-furyl))vinyl]amino}ethyl)(tert-butoxy)carboxamide | C(#N)C(=C(C=1OC=CC1C)NCCNC(=O)OC(C)(C)C)C#N | C16H20N4O3
